2141-02-09 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2141-2-8**]
   -hct 24.5, transfused 2 units, post transfusion hct 26.1- ordered 2
   additional units
   -2 a.m. 400cc of maroon liquid stool, 2:20 50cc additional maroon
   liquid stool- IR called immediately, recommended tagged RBC scan,
   ordered stat- performed at 5 a.m.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-9**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 100 (89 - 123) bpm
   BP: 109/59(69) {89/47(56) - 112/62(117)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  1,620 mL
                                                                  1,902 mL
   PO:
                                                                    290 mL
           TF:
   IVF:
                                                                  1,105 mL
                                                                    477 mL
   Blood products:
                                                                    225 mL
                                                                  1,424 mL
   Total out:
                                                                    715 mL
                                                                  1,505 mL
   Urine:
                                                                    715 mL
                                                                    980 mL
   NG:
   Stool:
   525 mL
   Drains:
   Balance:
                                                                    905 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   GENERAL:  NAD, AOX3
   HEENT:  JVP flat at 15 degrees, MM dry
   CARDIAC:  tachycardic, Regular rhythm, 2/6 SEM at USB
   LUNG:  CTAB
   ABDOMEN:  soft, NT, ND, no masses or organomegaly
   EXT:  WWP, no c/c/e
   NEURO:  grossly normal, AOx3
   Labs / Radiology
   132 K/uL
   8.4 g/dL
   73 mg/dL
   0.6 mg/dL
   17 mEq/L
   4.2 mEq/L
   20 mg/dL
   114 mEq/L
   141 mEq/L
   26.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2141-2-8**]  05:58 PM
                             [**2141-2-9**]  03:23 AM
   WBC
   9.8
   Hct
   24.5
   26.1
   Plt
   132
   Cr
   0.6
   Glucose
   73
   Other labs: PT / PTT / INR:15.6/30.6/1.4, ALT / AST:[**6-8**], Alk Phos / T
   Bili:30/0.6, Differential-Neuts:86.1 %, Lymph:10.1 %, Mono:3.0 %,
   Eos:0.6 %, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   62 yoF w/ a h/o Crohn's disease presenting with lower GI bleed likely
   related to diverticulosis.
   # GI bleed: no clear source currently, possibly small bowel bleed
   versus diverticular bleed.  C scope negative and per pt she had an EGD
   at the OSH which was negative.  No symptoms besides BRBPR.  Not
   consistent with ischemic colitis, infectious enterocolitis or Crohn's
   flare.
   -GI consult for possible EGD w/ push enteroscopy
   -Surgery consult given GI bleed of unclear origin
   -if bleeds will likely send to angiography, but will discuss this plan
   with GI and surgery
   -transfuse for hct > 28, type and cross x 4 units
   -FFP if > 4 units transfusion
   -daily coags, q6hr hct
   -triple lumen Power PICC on L side is good access
   # Crohn's:
   -continue home meds of asacol and imuran
   # Hypothyroidism: continue levothyroxine
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: H2 blocker, pneumoboots, bowel regimen
   # ACCESS: PICC
   # CODE:
   # CONTACT:
   # ICU CONSENT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-8**] 04:50 PM
   18 Gauge - [**2141-2-8**] 10:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-02-09 08:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2141-02-09 09:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2141-2-8**] 04:50 PM
   Triple lumen power PICC inserted at OSH on [**2141-2-3**]
 NASAL SWAB - At [**2141-2-8**] 06:54 PM
 NUCLEAR MEDICINE - At [**2141-2-9**] 05:03 AM
   [**2141-2-8**]
   -hct 24.5, transfused 2 units, post transfusion hct 26.1- ordered 2
   additional units
   -2 a.m. 400cc of maroon liquid stool, 2:20 50cc additional maroon
   liquid stool- IR called immediately, recommended tagged RBC scan,
   ordered stat- performed at 5 a.m. negative
   -given an additional 1 u pRBC Hct to 28
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-9**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 88 (88 - 123) bpm
   BP: 113/56(70) {89/47(56) - 125/63(117)} mmHg
   RR: 15 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  1,620 mL
                                                                  1,934 mL
   PO:
                                                                    290 mL
           TF:
   IVF:
                                                                  1,105 mL
                                                                    495 mL
   Blood products:
                                                                    225 mL
                                                                  1,439 mL
   Total out:
                                                                    715 mL
                                                                  1,855 mL
   Urine:
                                                                    715 mL
                                                                  1,330 mL
   NG:
   Stool:
   525 mL
   Drains:
   Balance:
                                                                    905 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Labs / Radiology
   111 K/uL
   9.8 g/dL
   79 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.7 mEq/L
   27 mg/dL
   113 mEq/L
   140 mEq/L
   28.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2141-2-8**]  05:58 PM
                             [**2141-2-9**]  03:23 AM
                             [**2141-2-9**]  07:03 AM
   WBC
   9.8
   7.0
   Hct
   24.5
   26.1
   28.5
   Plt
   132
   111
   Cr
   0.6
   0.5
   Glucose
   73
   79
   Other labs: PT / PTT / INR:14.5/31.3/1.3, ALT / AST:[**6-8**], Alk Phos / T
   Bili:30/0.6, Differential-Neuts:86.1 %, Lymph:10.1 %, Mono:3.0 %,
   Eos:0.6 %, Fibrinogen:236 mg/dL, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   62 yoF w/ a h/o Crohn's disease presenting with lower GI bleed likely
   related to diverticulosis.
   # GI bleed: no clear source currently, possibly small bowel bleed
   versus diverticular bleed.  C scope negative and per pt she had an EGD
   at the OSH which was negative.  No symptoms besides BRBPR.  Not
   consistent with ischemic colitis, infectious enterocolitis or Crohn's
   flare.  Repeat RBC scan negative this morning. Received Vitamin K given
   elevated INR and malnutrition.
   -GI consult: EGD w/ push enteroscopy and colonoscopy tomorrow
   - Start Golytely bowel prep this evening
   -Surgery consult given GI bleed of unclear origin
   -transfuse for hct < 30 given rapid bleed, type and cross x 4 units
   -FFP if > 4 units transfusion
   -daily coags, q6hr hct
   -triple lumen Power PICC on L side is good access
   - replete Calcium
   # Crohn's:
   -hold asacol as it may potentiate bleeding and imuran
   # Hypothyroidism: continue levothyroxine
   # FEN: IVFs / replete lytes prn / npo as may undergo her
   # PPX: H2 blocker, pneumoboots
   # ACCESS: PICC  line and PIV
   # CODE:  FULL
   # CONTACT:  [**Name (NI) **] (Husband)
   # ICU CONSENT:  Signed
   # DISPO: ICU
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, received an additional 3 Units of PRBCs and hematocrit went
   to 28.5% from 24% on admission here.
   Tm: 98   P: 90     BP: 113/62   Oxygen Sat: 95%  on Fio2
   General: Awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: No edema
   Labs: reviewed and as above
   Assessment:
   1)      GI bleed
 likely lower GI bleed
   2)      History of Chrohn
   Plan:
   1)      Transfuse PRBC
   2)      Planning for upper and lower endoscopy tomorrow
   Addendum: In the afternoon, patient had sudden drop in blood pressure
   to 60 systolic and high volume of blood per rectum.  Despite initial
   resuscitation, patient remained hypotensive and hypo-perfused with
   mottling throughout her body.  We activated the massive transfusion
   protocol and provided resuscitation, intubated the patient when she
   developed mental status changes/shaking chills, and went to IR with
   patient but no active arterial bleeding noted.  Surgery was present for
   entire time period and decided not to go to the OR because unclear
   where the bleeding is coming from and did not want to take out portions
   of bowel that were not the source of the bleeding.  Thus, patient will
   be brought back to the ICU, prepped overnight, and have upper and lower
   endoscopy in the morning.
   Time Spent: 120 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2141-2-9**] 10:53 PM ------

2141-02-10 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2141-2-9**] 03:00 PM
 INVASIVE VENTILATION - START [**2141-2-9**] 07:00 PM
 ARTERIAL LINE - START [**2141-2-9**] 07:30 PM
 CORDIS/INTRODUCER - STOP [**2141-2-9**] 08:00 PM
 CORDIS/INTRODUCER - START [**2141-2-10**] 12:22 AM
 CORDIS/INTRODUCER - STOP [**2141-2-10**] 05:22 AM
   ---passing dark red stool. got tagged red cell scan that was neg
   ---around 1700 passing more dark red stool, became hypotensive and
   tachycardic. cordis placed. went to IR for angio which did not show
   bleed. got total of 7 units PRBC, 3 units FFP, 2 units Cryo, 1 plts.
   hct stable following
   ---plan for [**Last Name (un) **] in am
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-10**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 79 (71 - 116) bpm
   BP: 108/51(69) {108/51(69) - 181/104(136)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 5 (2 - 5)mmHg
   Total In:
                                                                 13,046 mL
                                                                    138 mL
   PO:
   TF:
   IVF:
                                                                  6,120 mL
                                                                    138 mL
   Blood products:
                                                                  6,926 mL
   Total out:
                                                                  6,400 mL
                                                                  3,540 mL
   Urine:
                                                                  3,125 mL
                                                                    540 mL
   NG:
   Stool:
                                                                    525 mL
   Drains:
   Balance:
                                                                  6,646 mL
                                                                 -3,402 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/35/110/18/-4
   Ve: 7.6 L/min
   PaO2 / FiO2: 275
   Physical Examination
   GENERAL:  intubated, sedated
   CARDIAC:  tachycardic, Regular rhythm, 2/6 SEM at USB
   LUNG:  CTAB anteriorly
   ABDOMEN:  soft, NT, ND, no masses or organomegaly
   EXT:  WWP, no c/c/e
   Labs / Radiology
   140 K/uL
   16.0 g/dL
   107 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.6 mEq/L
   14 mg/dL
   114 mEq/L
   141 mEq/L
   43.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2141-2-9**]  07:03 AM
                             [**2141-2-9**]  11:54 AM
                             [**2141-2-9**]  03:24 PM
                             [**2141-2-9**]  04:46 PM
                             [**2141-2-9**]  07:29 PM
                             [**2141-2-9**]  07:51 PM
                             [**2141-2-9**]  08:52 PM
                             [**2141-2-10**]  12:00 AM
                             [**2141-2-10**]  05:08 AM
                             [**2141-2-10**]  05:26 AM
   WBC
   7.0
   7.6
   7.5
   9.3
   8.5
   6.7
   Hct
   28.5
   31.1
   27.1
   31.2
   47.3
   47.3
   43.2
   Plt
   111
   126
   112
   96
   118
   155
   140
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   17
   19
   21
   Glucose
   79
   98
   128
   107
   Other labs: PT / PTT / INR:12.0/27.7/1.0, ALT / AST:18/24, Alk Phos / T
   Bili:59/3.8, Differential-Neuts:86.1 %, Lymph:10.1 %, Mono:3.0 %,
   Eos:0.6 %, Fibrinogen:280 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0
   g/dL, Ca++:7.6 mg/dL, Mg++:3.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   62 yoF w/ a h/o Crohn's disease presenting with lower GI bleed likely
   related to diverticulosis.
   # GI bleed:  undergoing colonoscopy now, EGD w/ possible push
   enteroscopy.  D/w GI capsule study if other testing unrevealing.  Would
   need to attempt to localize bleed prior to possible surgical
   intervention.
   -q6hr hct, transfuse for hct < 30
   -maintain active type and cross
   -monitor K and calcium
   -R cordis and L power PICC, remove Power PICC today, maintain PIV
   .
   # Respiratory compromise: purely related to hemodynamic compromise and
   reduced cerebral perfusion.
   -plan to extubated following c scope / egd if no other intervention
   planned
   .
   # Crohn's:
   -cont azathoprine
   .
    # Hypothyroidism: continue levothyroxine
   .
    # FEN: IVFs / replete lytes prn / npo as may undergo her
   # PPX: PPI, pneumoboots
   # ACCESS: R Cordis, L PICC
   # CODE:  FULL
   # CONTACT:  [**Name (NI) **] (Husband)
   # ICU CONSENT:  Signed
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-8**] 04:50 PM
   18 Gauge - [**2141-2-8**] 10:45 PM
   Arterial Line - [**2141-2-9**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight/yesterday, massive GI bleeding requiring 12 Units PRBCs, 3
   FFP, 2 cryo, 1 platelets
   Tm: 97.9  P:  83    BP:101/54  RR 16   Oxygen Saturation: 100%  on Fio2
   of .4
   General: Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2
   Abd: Soft, NT ND
   Ext: No edema or cyanosis
   Labs: reviewed and as above
 43% down from 47%
   Assessment:
   1) GI bleeding
   2) Respiratory Failure secondary to mental status
   Plan:
   1)      Discuss with GI and surgery the next steps in determining
   source of bleeding
   2)      Keep intubated for now
   Addendum: Discussion with surgery and will extubate the patient and
   monitor.  If rebleeds, will go to the operating room.
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2141-2-10**] 05:22 PM ------

2141-02-11 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI bleed
   24 Hour Events:
 ENDOSCOPY - At [**2141-2-10**] 09:00 AM
 COLONOSCOPY - At [**2141-2-10**] 09:20 AM
 INVASIVE VENTILATION - STOP [**2141-2-10**] 04:37 PM
 PICC LINE - STOP [**2141-2-10**] 05:04 PM
   Triple lumen power PICC inserted at OSH on [**2141-2-3**]
 ULTRASOUND - At [**2141-2-10**] 09:00 PM
   Portable USG at left hand to R/O DVT.
   [**2141-2-10**]
   --colonoscopy and endoscopy showed no evidence of active bleed, several
   diverticuli in sigmoid colon, shallow ulceration at site of anastomosis
   --hct remained stable
   --patient extubated
   --patient with L arm swelling, low grade temps 100 F, and OSH PICC line
   in place
   --PICC line removed and sent for culture
   --CXR performed and blood cultures sent for evaluation of low grade
   temp
   --bedside upper extremity US found LUE DVT
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-11**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.6
C (97.8
   HR: 71 (71 - 110) bpm
   BP: 126/68(90) {107/59(78) - 152/84(110)} mmHg
   RR: 13 (12 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    535 mL
                                                                     77 mL
   PO:
             TF:
   IVF:
                                                                    535 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  5,580 mL
                                                                    495 mL
   Urine:
                                                                  1,730 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,045 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 619 (619 - 619) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 5 cmH2O
   Plateau: 15 cmH2O
   SpO2: 94%
   ABG: 7.34/35/77.[**Numeric Identifier 143**]/18/-5
   Ve: 7.2 L/min
   PaO2 / FiO2: 195
   Physical Examination
   GENERAL:  NAD, awake, alert
   CARDIAC:  tachycardic, Regular rhythm, 2/6 SEM at USB
   LUNG:  CTAB anteriorly
   ABDOMEN:  soft, NT, ND, no masses or organomegaly
   EXT:  WWP, moderate bilateral arm erythema
   Labs / Radiology
   171 K/uL
   15.1 g/dL
   74 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.7 mEq/L
   9 mg/dL
   112 mEq/L
   142 mEq/L
   44.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2141-2-9**]  07:29 PM
                             [**2141-2-9**]  07:51 PM
                             [**2141-2-9**]  08:52 PM
                             [**2141-2-10**]  12:00 AM
                             [**2141-2-10**]  05:08 AM
                             [**2141-2-10**]  05:26 AM
                             [**2141-2-10**]  11:17 AM
                             [**2141-2-10**]  03:55 PM
                             [**2141-2-10**]  05:48 PM
                             [**2141-2-11**]  03:22 AM
   WBC
   9.3
   8.5
   6.7
   8.9
   11.4
   10.8
   Hct
   47.3
   47.3
   43.2
   43.9
   45.5
   44.0
   Plt
   118
   155
   140
   156
   162
   171
   Cr
   0.5
   0.5
   0.4
   0.7
   0.6
   TCO2
   17
   19
   21
   20
   Glucose
   128
   107
   79
   82
   74
   Other labs: PT / PTT / INR:14.3/27.2/1.2, ALT / AST:18/24, Alk Phos / T
   Bili:59/3.8, Differential-Neuts:86.1 %, Lymph:10.1 %, Mono:3.0 %,
   Eos:0.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0
   g/dL, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   62 yoF w/ a h/o Crohn's disease presenting with lower GI bleed likely
   related to diverticulosis.
   # GI bleed:  undergoing colonoscopy now, EGD w/ possible push
   enteroscopy.  D/w GI capsule study if other testing unrevealing.  Would
   need to attempt to localize bleed prior to possible surgical
   intervention.  No bleeding since large bleed on [**2141-2-8**].
   -q8hr hct, transfuse for hct < 30
   -maintain active type and cross
   -monitor K and calcium
   -R cordis and maintain PIV
   - start clear diet
   - f/u GI recs if any
   .
   #  Low grade temp:  Likely due to PICC line as fevers resolved after
   its removal.  [**Month (only) 51**] be due to LUE DVT.  Sputum positive for GNR could
   also be a source.
   - continue to follow cultures.
   # Respiratory compromise: Patient tolerated extubation well,  due to
   low grade fevers overnight sputum was sent.  Sputum
   was positive for GNR.  Will hold off on antibiotics unless patient is
   febrile, unstable or increased sputum.
   - repeat sputum
   - f/u cultures
   .
   # LUE edema: US positive for DVT
   - given bleed will not anticoagulate
   .
   # Crohn's:
   -cont azathoprine
   .
    # Hypothyroidism: continue levothyroxine
   .
    # FEN: IVFs / replete lytes prn / npo as may undergo her
   # PPX: PPI, pneumoboots
   # ACCESS: R Cordis, 22g PIV
   # CODE:  FULL
   # CONTACT:  [**Name (NI) **] (Husband)
   # ICU CONSENT:  Signed
   # DISPO: ICU

2141-02-11 11:40:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62F with massive Crohn's and LGIB, likely from diverticulosis but
   source not completely clear, now stable with newly identified LUE clot:
   24 Hour Events:
   - LUE clot identified
   - no bleeding
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-11**] 12:00 AM
   Other medications:
   azathioprine, levothyrox, protonix, s/p mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-2-11**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.5
C (97.7
   HR: 77 (64 - 110) bpm
   BP: 141/77(100) {112/59(79) - 152/84(110)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    535 mL
                                                                    123 mL
   PO:
             TF:
   IVF:
                                                                    535 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  5,580 mL
                                                                    735 mL
   Urine:
                                                                  1,730 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,045 mL
                                                                   -613 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 619 (619 - 619) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 5 cmH2O
   SpO2: 99%
   ABG: 7.34/35/77.[**Numeric Identifier 143**]/18/-5
   Ve: 7.2 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Anasarca
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   15.1 g/dL
   171 K/uL
   74 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.7 mEq/L
   9 mg/dL
   112 mEq/L
   142 mEq/L
   44.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2141-2-9**]  07:29 PM
                             [**2141-2-9**]  07:51 PM
                             [**2141-2-9**]  08:52 PM
                             [**2141-2-10**]  12:00 AM
                             [**2141-2-10**]  05:08 AM
                             [**2141-2-10**]  05:26 AM
                             [**2141-2-10**]  11:17 AM
                             [**2141-2-10**]  03:55 PM
                             [**2141-2-10**]  05:48 PM
                             [**2141-2-11**]  03:22 AM
   WBC
   9.3
   8.5
   6.7
   8.9
   11.4
   10.8
   Hct
   47.3
   47.3
   43.2
   43.9
   45.5
   44.0
   Plt
   118
   155
   140
   156
   162
   171
   Cr
   0.5
   0.5
   0.4
   0.7
   0.6
   TCO2
   17
   19
   21
   20
   Glucose
   128
   107
   79
   82
   74
   Other labs: PT / PTT / INR:14.3/27.2/1.2, ALT / AST:18/24, Alk Phos / T
   Bili:59/3.8, Differential-Neuts:86.1 %, Lymph:10.1 %, Mono:3.0 %,
   Eos:0.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0
   g/dL, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Microbiology: Sputum: GNR on GS, cultures pending
   CXR: NO INFILTRATE
   Assessment and Plan
   62F with massive Crohn's and LGIB, likely from diverticulosis but
   source not completely clear, possibly from anastemosis at prior
   surgery, now stable. Unfortunately, she has a newly identified LUE clot
   associated with the prior PICC, but she has a clear contraindication to
   anticoagulation. Her crohn
s is a risk factor for clots, but no signs
   of clotting in other areas.
   Will continue discussion with GI and surgery about any additional
   studies. If rebleeds, plans may include for colectomy. Advancing diet
   to clears.
   GNRs on the gram stain noted but patient without respiratory symptoms
   and no infiltrate on the cxr. Will monitor for now and follow-up sputum
   cx. Given chronic tobacco use she may have colonizers.
   Will d/c aline but keep the cortis for now.
   Encouraged tobacco cessation and offered support. Pt is very motivated
   to quit.
   ICU Care
   Nutrition: regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2141-2-9**] 07:30 PM
   Cordis/Introducer - [**2141-2-10**] 12:22 AM
   22 Gauge - [**2141-2-10**] 05:19 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Pt is critically ill

2141-02-12 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-2-11**] 12:00 PM
 ANGIOGRAPHY - At [**2141-2-11**] 11:14 PM
   -re-bleed, HR up from 70 to 100, given 1L LR and IR / surgery called,
   per IR CTA may be helpful, ordered STAT
   -CTA findings: Actively extravasation in the ileocecal region which
   increases in the later phases of the study most compatible with acute
   bleed at this location. This is adjacent to surgical clips.
   -IR attempted repeat angio, negative for bleed, plan for C scope a.m.
   [**2-12**]- starting re-prep
   -2 uPRBC given for in total 1 L maroon liquid stool over 5-6 episodes
   overnight
   -family updated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-12**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 104 (64 - 113) bpm
   BP: 118/57(73) {91/40(54) - 142/86(95)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  2,301 mL
                                                                  3,657 mL
   PO:
                                                                    220 mL
                                                                  2,230 mL
   TF:
   IVF:
                                                                  1,527 mL
                                                                    973 mL
   Blood products:
                                                                    554 mL
                                                                    454 mL
   Total out:
                                                                  1,270 mL
                                                                  1,770 mL
   Urine:
                                                                  1,270 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,031 mL
                                                                  1,887 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: 7.41/35/50/23/-1
   Physical Examination
   GENERAL:  NAD, awake, alert
   CARDIAC:  tachycardic, Regular rhythm, 2/6 SEM at USB
   LUNG:  CTAB anteriorly
   ABDOMEN:  soft, NT, ND, no masses or organomegaly
   EXT:  WWP, moderate bilateral arm erythema
   Labs / Radiology
   175 K/uL
   12.0 g/dL
   151 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   8 mg/dL
   111 mEq/L
   141 mEq/L
   33.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2141-2-10**]  05:26 AM
                             [**2141-2-10**]  11:17 AM
                             [**2141-2-10**]  03:55 PM
                             [**2141-2-10**]  05:48 PM
                             [**2141-2-11**]  03:22 AM
                             [**2141-2-11**]  11:47 AM
                             [**2141-2-11**]  07:39 PM
                             [**2141-2-11**]  08:13 PM
                             [**2141-2-11**]  09:47 PM
                             [**2141-2-12**]  02:28 AM
   WBC
   8.9
   11.4
   10.8
   8.2
   Hct
   43.9
   45.5
   44.0
   45.5
   39.3
   33.8
   33.3
   Plt
   156
   162
   171
   175
   Cr
   0.7
   0.6
   0.5
   TCO2
   21
   20
   23
   Glucose
   82
   74
   151
   Other labs: PT / PTT / INR:18.1/32.1/1.6, ALT / AST:18/24, Alk Phos / T
   Bili:59/3.8, Differential-Neuts:86.1 %, Lymph:10.1 %, Mono:3.0 %,
   Eos:0.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0
   g/dL, Ca++:6.9 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Micro: [**2141-2-11**] Blood cx x 2 NGTD
   Sputum cx [**2-10**]
 good sample, 4+GNR- not yet speciated
   [**2-10**] PICC line tip- NGTD
   CTA abdomen [**2141-2-11**]:
   Actively extravasation in the ileocecal region which increases in the
   later
   phases of the study most compatible with acute bleed at this location.
   This
   is adjacent to surgical clips.
   Hemangioma and multiple cysts within the liver.
   Distended gallbladder with pericholecystic fluid. Clinical correlation
   is
   recommended.
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   62 yoF w/ a h/o Crohn's disease presenting with lower GI bleed likely
   related to diverticulosis.
   # GI bleed:  undergoing colonoscopy now, EGD w/ possible push
   enteroscopy.  D/w GI capsule study if other testing unrevealing.  Would
   need to attempt to localize bleed prior to possible surgical
   intervention.  No bleeding since large bleed on [**2141-2-8**].
   -q8hr hct, transfuse for hct < 30
   -maintain active type and cross
   -monitor K and calcium
   -R cordis and maintain PIV
   - start clear diet
   - f/u GI recs if any
   #  Low grade temp:  Likely due to PICC line as fevers resolved after
   its removal.  [**Month (only) 51**] be due to LUE DVT.  Sputum positive for GNR could
   also be a source.
   - continue to follow cultures.
   # Respiratory compromise: Patient tolerated extubation well,  due to
   low grade fevers overnight sputum was sent.  Sputum
   was positive for GNR.  Will hold off on antibiotics unless patient is
   febrile, unstable or increased sputum.
   - repeat sputum
   - f/u cultures
   # LUE edema: US positive for DVT
   - given bleed will not anticoagulate
   # Crohn's:
   -cont azathoprine
    # Hypothyroidism: continue levothyroxine
    # FEN: IVFs / replete lytes prn / npo as may undergo her
   # PPX: PPI, pneumoboots
   # ACCESS: R Cordis, 22g PIV
   # CODE:  FULL
   # CONTACT:  [**Name (NI) **] (Husband)
   # ICU CONSENT:  Signed
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2141-2-10**] 12:22 AM
   22 Gauge - [**2141-2-10**] 05:19 PM
   18 Gauge - [**2141-2-11**] 08:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2141-02-12 10:39:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62F w/ a h/o Crohn's disease presenting with lower GI bleed requiring
   >30 units PRBC, likely from anastemosis site of prior surgery in [**2126**]:
   24 Hour Events:
   - rebleed: CTA localized bleeding to the anastemosis at the distal
   ileum
   -colonoscopy earlier with clipping
   - 2 units PRBC and FFP given
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   azathiopr, levothyrox, protonix, kcl, mg, ca
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Genitourinary: No(t) Dysuria, Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-2-12**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.4
C (95.8
   HR: 99 (69 - 113) bpm
   BP: 106/52(65) {91/40(54) - 142/86(95)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  2,301 mL
                                                                  4,843 mL
   PO:
                                                                    220 mL
                                                                  3,230 mL
   TF:
   IVF:
                                                                  1,527 mL
                                                                  1,159 mL
   Blood products:
                                                                    554 mL
                                                                    454 mL
   Total out:
                                                                  1,270 mL
                                                                  4,300 mL
   Urine:
                                                                  1,270 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,031 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.41/35/50/23/-1
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube, No(t)
   OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   175 K/uL
   151 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   8 mg/dL
   111 mEq/L
   141 mEq/L
   29.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2141-2-10**]  11:17 AM
                             [**2141-2-10**]  03:55 PM
                             [**2141-2-10**]  05:48 PM
                             [**2141-2-11**]  03:22 AM
                             [**2141-2-11**]  11:47 AM
                             [**2141-2-11**]  07:39 PM
                             [**2141-2-11**]  08:13 PM
                             [**2141-2-11**]  09:47 PM
                             [**2141-2-12**]  02:28 AM
                             [**2141-2-12**]  08:18 AM
   WBC
   8.9
   11.4
   10.8
   8.2
   Hct
   43.9
   45.5
   44.0
   45.5
   39.3
   33.8
   33.3
   29.8
   Plt
   156
   162
   171
   175
   Cr
   0.7
   0.6
   0.5
   TCO2
   20
   23
   Glucose
   82
   74
   151
   Other labs: PT / PTT / INR:18.1/32.1/1.6, ALT / AST:18/24, Alk Phos / T
   Bili:59/3.8, Differential-Neuts:86.1 %, Lymph:10.1 %, Mono:3.0 %,
   Eos:0.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0
   g/dL, Ca++:6.9 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Imaging:
   CTA ABD: Actively extravasation in the ileocecal region which increases
   in the later phases of the study most compatible with acute bleed at
   this location. This is adjacent to surgical clips.
   Hemangioma and multiple cysts within the liver.
   Distended gallbladder with pericholecystic fluid. Clinical correlation
   is recommended.
   Assessment and Plan
   62F w/ a h/o Crohn's disease presenting with lower GI requiring >30
   units PRBC, likely from anastemosis site of prior surgery in [**2126**], now
   awaiting colonoscopy for possible less-invasive intervention.
   GI and surgery are following very closely. Colonoscopy results as
   above.  If she rebleed plan will be for surgery.
   Continuing supportive care with blood products including FFP, adequate
   access, and close monitoring.
   Cannot anticoagulant for LUE DVT associated with prior catheter given
   ongoing severe GIB.
   ICU Care
   Nutrition: NPO except for golytely
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Cordis/Introducer - [**2141-2-10**] 12:22 AM
   22 Gauge - [**2141-2-10**] 05:19 PM
   18 Gauge - [**2141-2-11**] 08:14 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-02-13 07:11:00 Physician Resident Progress Note
Chief Complaint: Lower GI bleed
   24 Hour Events:
   --Underwent colonoscopy today: no active bleeding. 5 clips to friable
   tissue along anastamosis
   --Hct trended down from 33--->24. No bloody stool. Vitals stable.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2141-2-12**] 10:55 AM
   Fentanyl - [**2141-2-12**] 11:30 AM
   Pantoprazole (Protonix) - [**2141-2-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-13**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 85 (80 - 129) bpm
   BP: 108/60(71) {86/42(56) - 126/74(86)} mmHg
   RR: 13 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  5,982 mL
                                                                  1,081 mL
   PO:
                                                                  3,230 mL
           TF:
   IVF:
                                                                  2,299 mL
                                                                    381 mL
   Blood products:
                                                                    454 mL
                                                                    700 mL
   Total out:
                                                                  5,395 mL
                                                                    695 mL
   Urine:
                                                                  2,495 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    587 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: well appearing, NAD
   Lungs: CTAB
   Heart: tachycardic, s1/s2 present, -mrg
   Abd: +BS, soft, NT, ND
   Ext: 1+ edema
   Labs / Radiology
   202 K/uL
   9.7 g/dL
   151 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.5 mEq/L
   8 mg/dL
   111 mEq/L
   141 mEq/L
   23.9 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-2-11**]  11:47 AM
                             [**2141-2-11**]  07:39 PM
                             [**2141-2-11**]  08:13 PM
                             [**2141-2-11**]  09:47 PM
                             [**2141-2-12**]  02:28 AM
                             [**2141-2-12**]  08:18 AM
                             [**2141-2-12**]  02:14 PM
                             [**2141-2-12**]  06:03 PM
                             [**2141-2-12**]  10:16 PM
                             [**2141-2-13**]  02:06 AM
   WBC
   8.2
   7.0
   6.5
   Hct
   45.5
   39.3
   33.8
   33.3
   29.8
   27.9
   27.0
   24.7
   23.9
   Plt
   175
   218
   202
   Cr
   0.5
   TCO2
   23
   Glucose
   151
   Other labs: PT / PTT / INR:18.1/32.1/1.6, ALT / AST:18/24, Alk Phos / T
   Bili:59/3.8, Differential-Neuts:86.1 %, Lymph:10.1 %, Mono:3.0 %,
   Eos:0.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0
   g/dL, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   62 yoF w/ a h/o Crohn's disease presenting with lower GI bleed likely
   related to diverticulosis.
   .
   .
   # GI bleed:Plan for OR today
   --transfused total 2 units overnight
   -check a post-transfusion Hct
   --FFP prior to [**Doctor First Name 213**]
   .
   # LUE DVT: PICC line associated and heparin strictly contraindicated in
   her.
   .
   # Coagulopathy: Likely related to multiple PRBC tranfusions and
   nutritional deficiency
   -give FFP prior to [**Doctor First Name 213**]
   .
   # Crohn
   -cont azathoprine
   .
   # Hypothyroidism: continue levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2141-2-10**] 12:22 AM
   22 Gauge - [**2141-2-10**] 05:19 PM
   18 Gauge - [**2141-2-11**] 08:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Over the weekend, the patient had continued bleeding episodes but this
   time bleeding was localized to anastamosis.  She was also found to have
   left upper extremity DVT where there was a PICC line in place.  She is
   scheduled for surgery today.
   Tm: 98.8  P:  89    BP:118/65  RR 18   Oxygen Saturation: 95%
   General: awake, alert
   Chest: CTA bilaterally
   Heart: S1 S2
   Abd: Soft, NT ND
   Ext: +1 edema bilaterally
   Labs: reviewed and as above
 Hct 23.9% -> 32.9%
   Assessment:
   1) GI bleed
 localized to anastamosis site
   2) Upper extremity DVT
   Plan:
   1)      Surgery today
   2)      Remove all IVs from the left arm and treat with warm compresses
   and relative elevation.  Clearly, she is too high of risk for any form
   of anti-coagulation.  After surgery is complete and hemostasis is
   confirmed over a period of days, then I think that a repeat ultrasound
   of the left arm should be considered/performed to evaluate resolution
   vs. extension.  At that point a decision could be made about pro vs con
   of any form of anti-coagulation.
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2141-2-13**] 03:06 PM ------